US04236004
5-diethylamino-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester
Two grams (0.0056 mole) of 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (prepared by the method of Example 3, first paragraph) and 0.82 g. (0.11 mole) of diethylamine were added together in ethanol in an autoclave and heated on a steam bath for 2 hours. The reaction mixture was then filtered and the filtrate chilled in ice. The precipitate which formed was collected on a suction filter. Recrystallization from ethyl acetate gave 0.8 g. of product m.p. 110°-115° C.

reactant | 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.0056 mole, Two grams | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)Cl | C18H16ClN3O3
reactant | diethylamine | 0.11 mole | C(C)NCC | C4H11N
solvent | ethanol | C(C)O | C2H6O
product | 5-diethylamino-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)N(CC)CC | C22H26N4O3
